US07091353B2
1,8-Diazabicyclo[5,4,0]undec-7-ene (0.29 g, 1.9 mmol) was added to a stirred suspension of 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride (0.6 g, 1.85 mmol) in acetonitrile (50 mL). After stirring for 20 min, (2,5-dioxopyrrolidinyloxy)-N-(3-pyridyl)carboxamide (0.44 g, 1.85 mmol) was added. The mixture was stirred at room temperature for 17 hours. The mixture was filtered and the solid was recrystallized from methanol (25 mL) to give N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}(3-pyridylamino)carboxamide (0.23 g, 30%). 2N HCl/ether was added to a stirred solution of N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}(3-pyridylamino)carboxamide (0.23 g) in methanol (5 mL) and ethyl acetate (10 mL). The mixture was stirred for 2 hours and filtered to give N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}(3-pyridylamino)carboxamide hydrochloride (0.2 g) as a white solid: mp 263–265° C.; 1H NMR (DMSO-d6) δ 11.17 (s, 1H), 10.43 (s, 1H), 9.08 (d, J=1.7 Hz, 1H), 8.44 (d, J=5.4 Hz, 1H), 8.33–8.29 (dd, J=1.2 and 8.5 Hz, 1H), 7.93–7.78 (m, 4H), 7.55 (t, J=6.0 Hz, 1H), 5.21–5.14 (dd, J=5.a and 12.5 Hz, 1H), 4.80 (d, J=5.9 Hz, 2H), 2.97–2.84 (m, 1H), 2.65–2.50 (m, 2H), 2.10–2.06 (m, 1H); 13C NMR (DMSO-d6) δ 172.78, 169.83, 167.54, 166.96, 154.78, 139.97, 139.51, 134.80, 134.37, 133.35, 132.34, 131.60, 130.43, 127.17, 127.10, 121.99, 48.88, 38.68, 30.94, 21.99; Anal. Calcd. For C20H18N5O5Cl: C, 54.12; H. 4.09; N, 15.78; Cl, 7.99. Found: C, 54.11; H, 4.10; N, 15.44; Cl, 7.81.

reactant | 1,8-Diazabicyclo[5,4,0]undec-7-ene | 1.9 mmol, 0.29 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride | 1.85 mmol, 0.6 g | Cl.NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O
reactant | (2,5-dioxopyrrolidinyloxy)-N-(3-pyridyl)carboxamide | 1.85 mmol, 0.44 g | O=C1N(C(CC1)=O)OC(=O)NC=1C=NC=CC1 | C10H9N3O4
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}(3-pyridylamino)carboxamide | 0.23 g, 30% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)CNC(=O)NC=1C=NC=CC1)=O)=O | C20H17N5O5
